US07935696B2
(2-Chlorophenyl)-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide
5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide (80 mg, 0.21 mmol) and 2-chlorophenylboronic acid (50 mg, 0.32 mmol) in toluene (0.7 mL) was purged with argon and ethanol (0.14 mL), 2 M aq. K3PO4 (0.21 mL, 0.42 mmol), and Pd(PPh3)4 (12 mg, 0.010 mmol) was added. The resulting mixture was heated at 115° C. for 2 h. After cooling to rt, the mixture was diluted with EtOAc (100 mL), washed with brine and dried over anyhd. sodium sulfate. The solution was filtered and concentrated under vacuum to afford a yellow solid which was triturated with MeOH (2 mL), filtered to collect the solid and rinsed with additional MeOH (2×0.5 mL) and dried under vacuum to afford 56 mg of a white solid as the title compound (Example 136). HPLC Ret time=3.56 min. LCMS [M+H]+ 411.21.

reactant | 5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | 0.21 mmol, 80 mg | BrC1=CC=C(S1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C16H15BrN2O2S
reactant | 2-chlorophenylboronic acid | 0.32 mmol, 50 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | ethanol | 0.14 mL | C(C)O | C2H6O
reactant | K3PO4 | 0.42 mmol, 2 M, 0.21 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.010 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Chlorophenyl)-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | 56 mg | ClC1=C(C=CC=C1)C1=C(SC=C1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C22H19ClN2O2S
